US09061013B2
1-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-azetidine-3-carboxylic acid (2,2,2-trifluoro-ethyl)-amide
To a stirred solution of 1-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-azetidine-3-carboxylic acid (Preparation 12, 0.1 g, 0.203 mmol) in DMF (3 mL) was added DIPEA (0.052 g, 0.406 mmol), HOBt (0.027 g, 0.203 mmol), EDCl.HCl (0.058 g, 0.304 mmol) and 2,2,2-trifluoro-ethylamine hydrochloride (0.027 g, 0.203 mmol) at 0° C. Resulting reaction mixture was stirred at room temperature for 16 hours under nitrogen atmosphere. After complete consumption of starting material, reaction mixture was quenched with water (50 mL), extracted with EtOAc (3×20 mL). Combined organic layer was washed with saturated NaHCO3 (2×50 mL), dried over sodium sulphate and evaporated in vacuo to get 0.170 mg crude. Crude was purified by column chromatography on silica gel (100-200 mesh size). Compound was eluted using 0.8% methanol in DCM to afford pale yellow solid, which was re-purified by DCM in pentane (1:9) to afford pale yellow solid (0.082 g, 71%). 1H-NMR (400 MHz, CDCl3) δ: 3.43-3.48 (m, 1H), 3.62 (d, 1H, J=17.04), 3.93-4.00 (m, 2H), 4.04 (d, 1H, J=17.0), 4.09-4.14 (m, 4H), 5.94 (t, 1H, J=6.06 Hz), 6.43 (d, 2H, J=8.72 Hz), 7.47-7.50 (m, 2H), 7.63 (s, 2H); LC-MS (m/z): [M−H] 571.70.

reactant | 1-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-azetidine-3-carboxylic acid | 0.203 mmol, 0.1 g | ClC=1C=C(C=C(C1Cl)Cl)C1(CC(=NO1)C1=CC=C(C=C1)N1CC(C1)C(=O)O)C(F)(F)F | C20H14Cl3F3N2O3
reactant | DIPEA | 0.406 mmol, 0.052 g | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 0.203 mmol, 0.027 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | CCN=C=NCCCN(C)C.Cl
reactant | HCl | 0.304 mmol, 0.058 g | Cl | ClH
reactant | 2,2,2-trifluoro-ethylamine hydrochloride | 0.203 mmol, 0.027 g | Cl.FC(CN)(F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-azetidine-3-carboxylic acid (2,2,2-trifluoro-ethyl)-amide | 0.082 g, 71% | FC(CNC(=O)C1CN(C1)C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)(F)F | C22H16Cl3F6N3O2
